US06416733B1
2-((tert-butoxy)carbonylamino)ethyl-3-((7-(3-(2-ethyl-4-(4-fluorophenyl)-5-(phenylmethoxy)phenoxy)propoxy)-8-propylchroman-2-yl)carbonylamino)propanoate (110 mg) was dissolved in methanol/chloroform (2:1, 5 mL) with 10% Pd/C (24 mg) and hydrogen gas bubbled in for 2 hours. The mixture was filtered through Celite®, rinsed with methanol, and concentrated under vacuum to afford 80 mg of 2-((tert-butoxy)carbonylamino)ethyl-3-((7-(3-(6-ethyl-4-(4-fluorophenyl)-3-hydroxyphenoxy)propoxy)-8-propylchroman-2-yl)carbonylamino)propanoate. Mass Spec (EI): 723.5 (M+H).

reactant | 2-((tert-butoxy)carbonylamino)ethyl-3-((7-(3-(2-ethyl-4-(4-fluorophenyl)-5-(phenylmethoxy)phenoxy)propoxy)-8-propylchroman-2-yl)carbonylamino)propanoate | 110 mg | C(C)(C)(C)OC(=O)NCCOC(CCNC(=O)C1OC2=C(C(=CC=C2CC1)OCCCOC1=C(C=C(C(=C1)OCC1=CC=CC=C1)C1=CC=C(C=C1)F)CC)CCC)=O | C47H57FN2O9
reactant | hydrogen | [H][H] | H2
solvent | methanol chloroform | 5 mL | CO.C(Cl)(Cl)Cl
catalyst | Pd/C | 24 mg | [Pd] | Pd
product | 2-((tert-butoxy)carbonylamino)ethyl-3-((7-(3-(6-ethyl-4-(4-fluorophenyl)-3-hydroxyphenoxy)propoxy)-8-propylchroman-2-yl)carbonylamino)propanoate | 80 mg | C(C)(C)(C)OC(=O)NCCOC(CCNC(=O)C1OC2=C(C(=CC=C2CC1)OCCCOC1=CC(=C(C=C1CC)C1=CC=C(C=C1)F)O)CCC)=O | C40H51FN2O9
